US05424183
4-Docosyloxybenzoic acid:
This compound was prepared by hydrolysis of methyl 4-docosyloxybenzoate in a manner analogous to that described above for 4-octadecyloxybenzoic acid.

reactant | methyl 4-docosyloxybenzoate | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)OC)C=C1 | C30H52O3
reactant | 4-octadecyloxybenzoic acid | C(CCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C25H42O3
product | 4-Docosyloxybenzoic acid | C(CCCCCCCCCCCCCCCCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C29H50O3
